US07714010B2
Analogously to general procedure (I) N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (2.5 g) is alkylated using (rac)-3-chloro-but-1-yne (0.86 g; 9.5 mmol) and K2CO3 (3.28 g; 23.7 mmol) at 50° C. for 14 days. After aqueous work-up the crude material (1.51 g) is de-acetylated in MeOH (40 ml) using DBU (0.3 ml) at reflux. After aqueous work-up (rac)-5-amino-3,3-dimethyl-1-(1-methyl-prop-2-ynyl)-6-nitro-1,3-dihydro-indol-2-one (1,3 g) is obtained and used without further purification.

reactant | N-(3,3-dimethyl-6-nitro-2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 2.5 g | CC1(C(NC2=CC(=C(C=C12)NC(C)=O)[N+](=O)[O-])=O)C | C12H13N3O4
reactant | (rac)-3-chloro-but-1-yne | 9.5 mmol, 0.86 g | ClC(C#C)C | C4H5Cl
reactant | K2CO3 | 23.7 mmol, 3.28 g | C(=O)([O-])[O-].[K+].[K+]
reactant | DBU | 0.3 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | MeOH | 40 ml | CO | CH4O
product | (rac)-5-amino-3,3-dimethyl-1-(1-methyl-prop-2-ynyl)-6-nitro-1,3-dihydro-indol-2-one | 1,3 g | NC=1C=C2C(C(N(C2=CC1[N+](=O)[O-])C(C#C)C)=O)(C)C | C14H15N3O3
